US08877772B2
Preparation of 5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-2(3H)-one (Compound BM)
To a solution of 3,3,5-tribromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-2(3H)-one (4.98 g, 10.0 mmol) in AcOH (50 mL) was added zinc dust (1.28 g, 20.0 mmol). The resulting mixture was stirred at room temperature for 2 hr, after which it was filtered thru Celite and concentrated in vacuo. The resulting residue was purified via silica gel chromatography eluting with 1:1 Hexanes:EtOAc to yield the title compound as a yellow oil (0.85 g, 25% over three steps). HPLC retention time: 2.60 minutes; MS ESI (m/z): 287.2 (Fragment+1)+, calc. 342.

reactant | 3,3,5-tribromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-2(3H)-one | 10.0 mmol, 4.98 g | BrC1(C(N(C2=NC=C(C=C21)Br)COCC[Si](C)(C)C)=O)Br | C13H17Br3N2O2Si
solvent | AcOH | 50 mL | CC(=O)O | C2H4O2
catalyst | zinc | 20.0 mmol, 1.28 g | [Zn] | Zn
product | 5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-2(3H)-one | 0.85 g, 25% | BrC=1C=C2C(=NC1)N(C(C2)=O)COCC[Si](C)(C)C | C13H19BrN2O2Si
